US04202894
7 G. of platinum dioxide and 7 g. of active carbon are suspended in 500 ml. of glacial acetic acid and prehydrogenated. Subsequently, there is added a solution of 37.4 g. of 1-[3-(p-tert.-amyl-phenyl)-2-methyl-propyl]-piperidine in 1000 ml. of glacial acetic acid and 67 ml. of perchloric acid and the mixture is hydrogenated at 25° C. The hydrogenation solution is filtered to remove the catalyst and the filtrate is treated with 110 g. of potassium acetate dissolved in 100 ml. of water. The precipiated potassium perchlorate is removed by filtration and the filtrate is evaporated on a rotary evaporator. The crystalline residue is made alkaline with 2 N sodium hydroxide, the free base is extracted with 500 ml. of ether, washed neutral with water, dried over sodium sulfate and evaporated. By distillation, there is obtained pure 1-[3-(4-tert.-amylcyclohexyl)-2-methyl-propyl]-piperidine, having a boiling point of 128°-132° C./0.04 Torr.

reactant | 1-[3-(p-tert.-amyl-phenyl)-2-methyl-propyl]-piperidine | C(C)(C)(CC)C1=CC=C(C=C1)CC(CN1CCCCC1)C | C20H33N
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
catalyst | platinum dioxide | [Pt](=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[3-(4-tert.-amylcyclohexyl)-2-methyl-propyl]-piperidine | C(C)(C)(CC)C1CCC(CC1)CC(CN1CCCCC1)C | C20H39N
